US07226951B2
6-Bromo-2,2,4,4-tetramethylchroman-8-carboxylic acid (Intermediate 41)
A stirred, cooled (ice bath) solution of 6-bromo-2,2,4,4-tetramethylchroman-6-carbaldehyde (U.S. Pat. No. 6,303,785 incorporated herein by reference; 3.31 g, 11.15 mmol) in 2-methyl-2-propanol (30 mL) was treated with glacial acetic acid (30 mL) followed by 2-methyl-2-butene (12 mL, 1111.5 mmol). A solution of sodium chlorite (2.15 g, 18.95 mmol) in water (15 mL) was added dropwise to the reaction mixture. The reaction mixture was then allowed to gradually warm up to ambient temperature and stirred for 4 h at the end of which it was made basic 2N sodium hydroxide solution and then acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the title product as a yellow solid (3.23 g, 93%).

reactant | 6-bromo-2,2,4,4-tetramethylchroman-6-carbaldehyde | BrC1(CC=2C(CC(OC2C=C1)(C)C)(C)C)C=O | C14H19BrO2
reactant | 2-methyl-2-butene | 1111.5 mmol, 12 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 18.95 mmol, 2.15 g | Cl(=O)[O-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 2-methyl-2-propanol | 30 mL | CC(C)(C)O | C4H10O
solvent | water | 15 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 6-Bromo-2,2,4,4-tetramethylchroman-8-carboxylic acid | 3.23 g, 93% | BrC=1C=C2C(CC(OC2=C(C1)C(=O)O)(C)C)(C)C | C14H17BrO3
